Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])[H:17])([H:15])[H:16])([H:13])([H:14])[H:18]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],0.8116950517279946
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([O:2][N:4]=[C:3]([C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],102.213077411535
[C:1]([C:2]([C:3]([C:4]([C:6](=[C:5])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],12.9921245434969
[C:3]1([H:11])=[C:4]([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15].[O:1]([C:2]([H:9])([H:10])[H:12])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],66.89283596457281
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]1/[C:2](=[N:3]\[H:8])[C@@:7]1([C@@:5]1([H:11])[C:4]([H:9])([H:10])[O:6]1)[H:12],88.90772542587307
[C:1]([H:5])([H:6])([H:7])[H:9].[C:2](=[O:3])=[C:4]([H:8])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7],63.6992023021766
[C:1]([C:2]([C:3][O:4][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:13])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.82779980090762
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]1([H:7])[C:2](=[O:3])[C:4]([H:9])([H:10])[C:5][C:6]1([H:8])[H:11],73.6284231969071
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C@:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[O:6]1)\[H:7],62.88794293841829
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[C:7][H:17])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:7]([H:15])([H:17])[C:6][C@@:5]12[H:16])([H:8])([H:9])[H:10],73.2380794654847
[C:1]1([H:8])([H:9])[N:2]([H:11])[C@:3]12[O:4][C@@:6]([N:7]([H:10])[H:14])([H:13])[N:5]2[H:12]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],34.80841532490129
[O:1]([C:2]([C:3](=[C:6]=[C:7]([C:4](=[O:5])[H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],54.034620705609136
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10]>>[O+:1]1=[C-:2][C@@:3]1([C@@:4]1([H:9])[O:5][C:6]1([H:7])[H:10])[H:8],40.1670098162617
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](/[O:4][C:5](=[O:6])[N:7]([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10],51.4229023034464
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2])[H:8].[O:3]=[C:4]([O:5][C:6]#[N:7])[H:9],48.7588848022244
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:12])=[C:4](/[C:6](=[O:7])[H:15])[H:13])([H:8])([H:9])[H:10].[O:5]([H:11])[H:14],66.27053440580801
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][C:4](=[O:5])[H:12])([H:11])[C:6][C:7]1([H:9])[H:13],93.6563003502458
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([N:2]=[C:3]=[C:6]([N:5]([C:4]([H:8])([H:9])[H:12])[H:10])[H:11])[H:7],72.9643812514415
[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8]>>[N:1](=[C:2]=[N:3][C:4](=[N:5][O:6][H:7])[H:9])[H:8],69.3987464104044
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:6]1=[C:7](\[C:4]#[N:5])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],84.33392818124332
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[o:1]1[c:2]([H:7])[c:3]([C:4]#[C:5][H:8])[o:6]1,131.468596583693
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](=[O:3])=[N:4][C:5](=[O:6])[H:11]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],66.1104574385103
[C:1]([O:6][C@:5]1([C:7]([H:13])([H:14])[H:15])/[C:3](=[N:2]\[H:11])[N:4]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],34.0015471290377
[C:1](=[C:2]=[C:3]=[C:4]([O:6][H:14])[H:10])([H:7])[H:9].[C:5]([H:8])([H:11])([H:12])[H:13]>>[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],66.5238785860405
[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],33.4986023639809
